US04960884
A solution of 3.0 grams (0.015 mole) of 4-acetamidophenyl 2-fluoroethyl ether in 15 ml of dry tetrahydrofuran was added dropwise to a stirred solution of 15 ml of a 3.4 M solution of sodium bis(2-methoxyethoxy)aluminium hydride (Red-Al®) in toluene and 50 ml of dry tetrahydrofuran. The reaction mixture was stirred at room temperature for approximately 18 hours. The mixture was quenched with 1 ml of water and was filtered. The filtrate was evaporated under reduced pressure leaving a dark liquid which solidified upon standing. This solid was dissolved in ethyl acetate to which a small amount of water was added. A small amount of precipitate formed from which the organic solution was decanted. The organic solution was evaporated under reduced pressure leaving a dark liquid residue. This residue was purified by column chromatography on silica gel followed by distillation under reduced pressure to yield 1.6 grams of 4-(ethylamino)phenyl 2-fluoroethyl ether as a solid.

reactant | 4-acetamidophenyl 2-fluoroethyl ether | 0.015 mole, 3.0 grams | FCCOC1=CC=C(C=C1)NC(C)=O | C10H12FNO2
reactant | sodium bis(2-methoxyethoxy)aluminium hydride | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | 4-(ethylamino)phenyl 2-fluoroethyl ether | 1.6 grams | FCCOC1=CC=C(C=C1)NCC | C10H14FNO
